Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
ERCP and sphincterotomy

 
History of Present Illness:
CC: ___ pain

HPI: This is an ___ male with history of hypertension,
diabetes, hypercholesterolemia, GERD, ___ esophagus, prior
gallstone pancreatitis status post cholecystectomy who presents
with nausea and vomiting.  He was in his usual state of health
until this afternoon.  He had uneventful breakfast and about 2 
___
in the afternoon he developed acute nausea and intractable
vomiting.  He has had multiple episodes of vomiting with
nonbloody, bilious material.  He denies any abdominal pain.  She
had some chills but no frank fever.  He noticed slight yellowing
of his sclerae no dark urine.  Denies any diarrhea, dysuria,
frequency.  Nobody in the household is sick with similar
symptoms.

In the ER VS 

temperature 97.9-98, blood pressure 118-127/49-60, heart rate
72-86, respiratory rate ___, oxygen saturation 97-98% on room
air

WBC 13, neutrophils 86%, hemoglobin 9.6, platelets 186, INR 1.1,
sodium 137, potassium 4.4, chloride 103, carbon dioxide 19, BUN
27, creatinine 1.8, CK 347, MB 3, troponin T0.01, ALT 539, AST
600, AP 358, total bilirubin 2.4, lipase 32, proBNP 532, urine
analysis unremarkable

ECG sinus rhythm 75/min, left bundle branch block

___ he had:

Chest x-ray: No active disease new

Right upper quadrant ultrasound: Normal liver, evidence of
cholecystectomy, common bile duct is dilated to 1.2 cm and
contains several stones less than 1 cm large, no ascites

Chest x-ray: Normal chest x-ray

KUB: Moderate stool burden, no air fluid levels, no ileus or
obstruction cholecystectomy clips

Head CT: Normal head CT 

Patient was given normal saline 500 mL IV and admitted for
choledocholithiasis.  Prior to admission here she received
aspirin and Zosyn at ___.

 
Past Medical History:
Past Medical History:
-___ esophagus
-GERD
-Chronic kidney disease
-TIA
-Diabetes
-Hyper cholesterolemia
-Hypertension
-MDS on ___
 
Social History:
___
Family History:
No history of premature CAD, sudden cardiac death, 
cardiomyopathies.  Brother had history of alcoholism,
mother died of heart attack at the age of ___.

 
Physical Exam:
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or 
lesions, no supraclavicular or cervical lymphadenopathy, no JVD, 
no carotid bruits, no thyromegaly or palpable thyroid nodules 
Respiratory: bibasilar crackles, better with cough, some 
scattered rhonchi, no egophony, or wheezing
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for 
hospitalization.  
Psychiatric: pleasant, appropriate affect
GU: no catheter in place
 
Pertinent Results:
___ 03:30AM UreaN-27* Creat-1.8* 

___ 11:20PM  ALT-539* AST-600* AlkPhos-358* TotBili-2.4*
___ 03:30AM ALT-492* AST-482* AlkPhos-355* TotBili-2.8*

ERCP REPORT
Limited exam of the esophagus was normal, Evidence of a previous 
gastroenterostomy was seen. Limited exam of the duodenum was 
normal. The scout film revealed surgical clips in the RUQ. The 
major papilla was on the lateral rim of a small periampullary 
diverticulum. The CBD was successfully cannulated with the 
Hydratome sphincterotome preloaded with a 0.035in guidewire. The 
guidewire was advanced into the intrahepatic biliary tree. 
Contrast injection revealed a dilated CBD to approximately 12mm 
in diameter and multiple filling defects consistent with stones 
in the proximal, mid and distal CBD. A sphincterotomy was 
successfully performed at the 12 o'clock position. No post 
sphincterotomy bleeding was noted. Balloon sphincteroplasty was 
then performed with a 10mm CRE balloon dilator. The CBD was 
swept several times with successful removal of several large 
stones and moderate amounts of sludge material. Occlusion 
cholangiogram showed no further filling defects.  There was 
excellent drainage of bile and contrast at the end of the 
procedure. The PD was not injected or cannulated.
 
Brief Hospital Course:
# Acute choledocholithiasis: Patient underwent successful ERCP 
and sphincterotomy with removal of several obstructive stones. 
On HD 2, his diet was advanced, and he was discharged to home.

# Possible type II NSTEMI: TnT mildly elevated, but no clinical 
signs/symptoms of ischemic chest pain, patient reports excellent 
ETT (> ___ METS); baseline ECG on arrival to ___ with LBBB, 
but duration unclear; ___ summary from ___ when he was 
treated for TIA does not mention any ECG findings. Suspect he 
has
subclinical CAD and mild demand ischemia and/or chronic 
low-level elevation secondary to CKD

. Was on aspirin until arrival here, on statin still. Will check 
second set of cardiac
biomarkers, and discuss with ERCP team regarding timing of
procedure and/or desire for further risk stratification.

___ 09:30   <0.011 
___ 03:30     0.02 
___ 23:20     0.012 

# Hypertension: Stable, holding Diovan

# Diabetes mellitus type II: Holding oral hypoglycemic and 
covering with ISS.

# CKD Stage III: Stable

# Myelodysplastic syndrome: Not confirmed, but mentioned in OSH 
records.

# Nutrition: NPO

# Functional status: Independent

# Lines/Tubes: Peripheral

# Precautions: NA

# VTE prophylaxis: Hep SC

# Consulting Services: ERCP

# Contacts/Surrogate: Wife ___

# Code Status: Full

# Disposition/Discharge Planning: Home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Valsartan 320 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. SITagliptin 50 mg oral Q24H 
6. Omeprazole 40 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM  
3.  Omeprazole 40 mg PO DAILY  
4.  Valsartan 320 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___
7. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until Wedneday 
___. HELD- SITagliptin 50 mg oral Q24H  This medication was held. 
Do not restart SITagliptin until Wedneday ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Acute choledocholithiasis
- Acute renal failure (resolved)

Secondary:
- LBBB of unclear duration
- Possible type II NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___ -
___ were admitted for choledocholithiasis (stones in your bile 
duct) that were causing ___ discomfort and nausea and vomiting. 
___ underwent ERCP to open the duct outlet and remove the 
stones. Please take all of your medications as directed and keep 
your follow-up appointments as scheduled.
 
Followup Instructions:
___